US05026917
Recrystallization of 2,6-AMN from n-Nonane Solution of Isomer Mixture
A crude isomer mixture weighing 33.71 grams and containing 59.4 weight percent 2,6-AMN, 12.8 weight percent nitrobenzene and 27.8 weight percent of other materials which were believed to be mainly other isomers of acetylmethylnaphthalene was used for the present evaluation.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetylmethylnaphthalene | C(C)(=O)CC1=CC=CC2=CC=CC=C12 | C13H12O
product | n-Nonane | CCCCCCCCC | C9H20
